US07488789B2
(2) Synthesis of (3-tert-butyl-cyclopentadienyl)(fluorenyl)diphenylmethane
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 0.76 g of fluorene (4.57 mmol) was dissolved in 40 ml of dehydrated diethyl ether in a nitrogen atmosphere. To the solution, 3.1 ml of a n-butyl lithium/hexane solution (1.57M: 4.87 mmol) was gradually added dropwise in an ice bath and stirred at room temperature for over night. The solvent was distilled off under reduced pressure and thereby a reddish-orange solid was obtained. To the solid, a solution prepared by dissolving 2.40 g of 2-tert-butyl-6,6-diphenyl fulvene (8.38 mmol) in 150 ml of dehydrated diethyl ether was added and stirred under reflux for 7 days. The reaction mixture was added to 150 ml of a hydrochloric acid aqueous solution (2%) and then diethyl ether was added therein to separate an organic phase. The organic phase was washed with water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate and the drying agent was filtered off. The solvent was distilled off under reduced pressure from the filtrate and thereby orange brown oil was obtained. The oil was re-crystallized using hexane and thereby the aimed compound was obtained in an amount of 1.03 g (2.28 mmol) as a pale yellow solid. The solid further was purified with a chromatography using 100 g of silica gel (developing solvent: n-hexane) and the developing solvent was distilled off under reduced pressure and thereby the aimed compound was obtained in an amount of 0.370 g (0.817 mmol) as a yellow solid (yield: 67%).

reactant | fluorene | 4.57 mmol, 0.76 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | n-butyl lithium hexane | 4.87 mmol, 1.57M, 3.1 ml | C(CCC)[Li].CCCCCC
reactant | 2-tert-butyl-6,6-diphenyl fulvene | 8.38 mmol, 2.40 g | C(C)(C)(C)C1=CC(C=C1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C22H22
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | (3-tert-butyl-cyclopentadienyl)(fluorenyl)diphenylmethane | C(C)(C)(C)C1=CC(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=2C3=CC=CC=C3CC12 | C35H32
